US07902187B2
6-chloro-8-methyl-9-(tetrahydro-2H-pyran-4-yl)-9H-purin-2-amine.
In an alternative procedure, the reaction was carried out in parallel using 10 vials. To each vial was added 6-chloro-N4-(tetrahydro-2H-pyran-4-yl)pyrimidine-2,4,5-triamine (preparation Route A) (400 mg, 1.64 mmol), N,N-dimethyl acetamide (8 mL), glacial acetic acid (16 μL, 0.2% vol) and triethylorthoacetate (0.8 mL, 5.32 mmol) and the mixture was stirred at 160° C. After 3 days, the reaction was complete (by LC-MS) and the reaction mixture, containing desired product MS (EI) m/z 268.1 (MH)+, as well as acetylated product MS (EI) m/z 310.2 (MH)+, was cooled to room temperature. To each vial was then added 1 mL of a 1 M aqueous solution of HCl, with stirring at 100° C. After 1 h at 100° C., LC-MS analysis indicated only desired product, in a clean reaction. Upon cooling to room temperature, a white precipitate formed. Filtration under vacuum, followed by washing of the precipitate with portions of methanol provided the desired product (combined yield 2.98 g for 10 vials, 68% yield) as a white solid in pure form. 1HNMR (300 MHz, d6-DMSO) δ, ppm: 6.76 (s, 2H), 4.41 (m, 1H), 3.97 (m, 2H), 3.45 (m, 2H), 3.33 (s, 3H), 2.63 (m, 2H), 1.74 (m, 2H); MS (EI) m/z 268.1 (MH)+.

reactant | 6-chloro-N4-(tetrahydro-2H-pyran-4-yl)pyrimidine-2,4,5-triamine | ClC1=C(C(=NC(=N1)N)NC1CCOCC1)N | C9H14ClN5O
reactant | N,N-dimethyl acetamide | 8 mL | CN(C(C)=O)C | C4H9NO
reactant | triethylorthoacetate | 5.32 mmol, 0.8 mL | C(C)C(C([O-])([O-])[O-])(CC)CC
solvent | acetic acid | 16 μL | C(C)(=O)O | C2H4O2
product | 6-chloro-8-methyl-9-(tetrahydro-2H-pyran-4-yl)-9H-purin-2-amine | ClC1=C2N=C(N(C2=NC(=N1)N)C1CCOCC1)C | C11H14ClN5O
